US07053212B2
Step A: 2-Chloro-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-4-trifluoromethyl-benzenesulfonamide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.060 g, 0.15 mmol) in 0.4 mL methylene chloride was added triethylamine (0.06 mL, 0.45 mmol) and 2-chloro-4-trifluoromethyl benzenesulfonyl chloride (0.084 g, 0.3 mmol). The reaction mixture was stirred at room temperature for 6 days. PS-isocyanate resin (Argonaut Technologies, Foster City, Calif.; 0.050 g) and PS-trisamine resin (Argonaut Technologies; 0.050 g) were added and the reaction mixture was stirred for 2 hr. at room temperature. The resin was filtered off and was washed with methylene chloride. The filtrate was concentrated to give the title compound of Step A. MS 639.4 (M+1)+

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.15 mmol, 0.060 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 0.45 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-trifluoromethyl benzenesulfonyl chloride | 0.3 mmol, 0.084 g | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
reactant | isocyanate | 0.050 g | [N-]=C=O
reactant | trisamine | 0.050 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | methylene chloride | 0.4 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-4-trifluoromethyl-benzenesulfonamide | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N(CC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C31H34ClF3N2O5S
